US04904675
1-(5-Carboxy-2-pyridinyl)-1-butanone
To a stirred solution of propyl magnesium bromide (67.5 mmol) in 80 ml of ether, 5-carboxy-2-cyano-pyridine (30.7 mmol), dissolved in 100 ml of tetrahydrofuran, is added dropwise. The mixture is refluxed for 20 h. After cooling, 10 ml of water and 5 ml of 5N H2SO4 are added. Extraction of the aqueous phase with ether and evaporation of the solvent yield 3.5 g of crude product. Purification by silica gel column chromatography (n-hexane: ethyl acetate: HCOOH 7:3:0.1) yields the title compound, m.p. 128°-130°.

reactant | propyl magnesium bromide | 67.5 mmol | C(CC)[Mg]Br
reactant | 5-carboxy-2-cyano-pyridine | 30.7 mmol | C(=O)(O)C=1C=CC(=NC1)C#N | C7H4N2O2
reactant | water | 10 ml | O | H2O
reactant | H2SO4 | 5N, 5 ml | OS(=O)(=O)O | H2O4S
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(5-Carboxy-2-pyridinyl)-1-butanone | C(=O)(O)C=1C=CC(=NC1)C(CCC)=O | C10H11NO3
